US06083961
To a solution of 4-benzyloxy-1-ethyl-2-methyl-1H-benzimidazole (370 mg) in ethyl acetate (3.7 ml) was added 10% palladium on carbon (18 mg), and the mixture was stirred for 5 hours at ambient temperature under hydrogen atmosphere. Insoluble material was filtered off, and the filtrate was concentrated in vacuo. The residue was crystallized with diisopropyl ether to give 1-ethyl-4-hydroxy-2-methyl-1H-benzimidazole (220 mg)

reactant | 4-benzyloxy-1-ethyl-2-methyl-1H-benzimidazole | 370 mg | C(C1=CC=CC=C1)OC1=CC=CC=2N(C(=NC21)C)CC | C17H18N2O
solvent | ethyl acetate | 3.7 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 18 mg | [Pd] | Pd
product | 1-ethyl-4-hydroxy-2-methyl-1H-benzimidazole | 220 mg | C(C)N1C(=NC2=C1C=CC=C2O)C | C10H12N2O
